US06469176B1
Preparation of 3-Bromo-2-methyl-6-methylsulfonylbenzaldehyde
7.1 g of 3-bromo-2-methyl-6-methylsulfonylbenzaldoxime (23 mmol) are stirred in a mixture of 17 g of 5% strength hydrochloric acid, 2 g of a 37% strength solution of formaldehyde, 15 ml of water and 30 ml of tetrahydrofuran at 65° C. for 32 hours. During this time, a further 3.5 g of a 37% strength solution of formaldehyde are added in portions of 0.5 g. The mixture is subsequently cooled to room temperature, and the product is filtered off with suction.

reactant | 3-bromo-2-methyl-6-methylsulfonylbenzaldoxime | 23 mmol, 7.1 g | BrC=1C(=C(C=NO)C(=CC1)S(=O)(=O)C)C | C9H10BrNO3S
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | C=O | CH2O
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Bromo-2-methyl-6-methylsulfonylbenzaldehyde | BrC=1C(=C(C=O)C(=CC1)S(=O)(=O)C)C | C9H9BrO3S
